US03975443
1-[1-(Aminomethyl)cyclohexyl]-4-methyl piperazine (10.57 g.,) was added slowly to stirred acetic anhydride (40 ml) cooled in ice and the stirring was continued for 15 mins. The mixture was heated under reflux for 1 hr.. The solution was evaporated to dryness and re-evaporated with ethanol/benzene (X2). The residue was dissolved in water, the solution made alkaline with 5NNaOH (pH = 14), extracted with chloroform (X3), dried (anhyd.Na2SO4) and evaporated. The residue was dissolved in hot petroleum ether (80°-100°) decolourised with charcoal and allowed to cool. The crystalline solid which formed was recrystallised from petroleum ether (b.p. 80°-100°) to give 1-[1-(acetamidomethyl)cyclohexyl]-4-methyl piperazine (8.3 g; 65%) m.p. 110°-111°.

reactant | 1-[1-(Aminomethyl)cyclohexyl]-4-methyl piperazine | 10.57 g | NCC1(CCCCC1)N1CCN(CC1)C | C12H25N3
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[1-(acetamidomethyl)cyclohexyl]-4-methyl piperazine | 8.3 g, 65% | C(C)(=O)NCC1(CCCCC1)N1CCN(CC1)C | C14H27N3O
